data/mechanism_extracts/Arkivoc/10.24820_ark.5550190.p011.041.json
{"doi": "10.24820_ark.5550190.p011.041", "journal": "Arkivoc", "is_review": false, "rxn_class_summary": "Electrochemical synthesis of cyclopropanes (including spirocyclopropanes) from C-H acids and alkylidenemalononitriles using pyridinium bromide as a redox mediator in an undivided cell.", "mechanism_family": ["mediator_anodic", "paired_electrolysis", "anion_initiated"], "electrochemical_role": "Anodic oxidation of bromide to Br2 (mediator regeneration); cathodic reduction of pyridinium cation to pyridine (base generator) with concomitant H2 evolution.", "key_intermediates": [{"name": "alpha-bromo C-H acid (intermediate A)", "smiles": null, "role": "reactive"}, {"name": "N-substituted pyridinium salt (alpha-pyridinio C-H acid, pre-ylide)", "smiles": null, "role": "transient"}, {"name": "pyridinium ylide (intermediate B)", "smiles": null, "role": "reactive"}, {"name": "Michael adduct (pyridinium-stabilized malononitrile carbanion)", "smiles": null, "role": "transient"}, {"name": "molecular bromine (Br2, mediator)", "smiles": "BrBr", "role": "reactive"}, {"name": "pyridine (base, generated at cathode)", "smiles": "c1ccncc1", "role": "reactive"}], "electron_flow": "Anode oxidizes 2 Br- to Br2 while the cathode reduces 2 PyH+ to 2 Py + H2; Py deprotonates the C-H acid whose anion is brominated by Br2 to give A; a second equivalent of Py displaces bromide forming pyridinium ylide B, which undergoes Michael addition to the alkylidenemalononitrile followed by intramolecular SN2 displacement of pyridine to close the cyclopropane 3.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["other"], "evidence_strength": "weak", "notes": "Mechanism is proposed by analogy (last cyclization step postulated following Abaszadeh's work on pyridinium ylide + benzylidenemalononitrile cyclopropanation). Authors note NaBr in MeOH is a more effective mediator than PyHBr in MeCN, attributed to mechanistic particularities but not probed experimentally. Bromine formation at the anode is supported by visual observation of its color; H2 evolution at the cathode is observed especially under unstirred conditions."}
